US07820662B2
7-Cyclobutyl-5-(4-methyl-2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine was prepared using the same procedures described for 7-cyclobutyl-5-(2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine, except 4-methyl-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline was used in place of 2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline and 2 equivalents of cesium carbonate was used in place of 3 equivalents of sodium carbonate; 1H NMR (CDCl3, 400 MHz) δ 2.06 (m, 1H), 2.17 (m, 1H); 2.47-2.52 (m, 2H); 2.67-2.72 (m, 2H); 2.82 (d, J=0.8 Hz, 3H); 4.14-4.25 (m, 1H); 5.78 (brs, 2H); 7.46-7.56 (m, 3H); 7.77 (d, J=0.8 Hz, 1H); 7.92 (s, 1H); 7.98 (dd, J=8.6, 1.8 Hz, 1H); 8.15-8.18 (m, 3H); 8.39 (d, J=1.6 Hz, 1H); MS (ES+): m/z 407.03 (100) [MH+], HPLC: tR=3.54 min (MicromassZQ, polar—5 min).

reactant | 7-cyclobutyl-5-(2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C24H20N6
reactant | 4-methyl-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | CC1=CC(=NC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C22H24BNO2
reactant | cesium carbonate | 2 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
product | 7-Cyclobutyl-5-(4-methyl-2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)C2=CC=C1C(=CC(=NC1=C2)C2=CC=CC=C2)C | C25H22N6
